US09328117B2
A solution of ethyl 6-chloro-[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate (1.5 g, 6.6 mmol) and (S)-N-methyl-1-phenylethanamine (3.6 g, 26.4 mmol) in 20 mL of CH3CN was heated to reflux and stirred for 36 h. When cooled to room temperature, the reaction mixture was concentrated in vacuum, and the residue was purified by flash chromatography eluting with DCM/EA=5:1 to give product (S)-ethyl 6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate as a yellow oil (0.7 g, 32%). LRMS (M+H+) m/z: calcd 326.16; found 326. 1H NMR (300 MHz, CDCl3): δ 8.02-7.99 (d, J=9 Hz, 1H), 7.36-7.26 (m, 5H), 7.09-7.06 (d, J=9 Hz, 1H), 5.82-5.75 (q, 1H), 4.57-4.50 (q, 2H), 2.94 (s, 3H), 1.68-1.65 (d, 3H), 1.48-1.44 (t, 3H).

reactant | ethyl 6-chloro-[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate | 6.6 mmol, 1.5 g | ClC=1C=CC=2N(N1)C(=NN2)C(=O)OCC | C8H7ClN4O2
reactant | (S)-N-methyl-1-phenylethanamine | 26.4 mmol, 3.6 g | CN[C@@H](C)C1=CC=CC=C1 | C9H13N
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | (S)-ethyl 6-(methyl(1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate | 0.7 g, 32% | CN(C=1C=CC=2N(N1)C(=NN2)C(=O)OCC)[C@@H](C)C2=CC=CC=C2 | C17H19N5O2
